US05840732
ii) Synthesis of 3-benzyl-6-chloro-5-methylpyrimidine-2,4(1H,3H)-dione
To 16.8 ml of 50% ethanol, 78.7 ml (844 mmol) of phosphorus oxychloride was added dropwise, with stirring under ice cooling conditions. To this solution, 23.22 g (100 mmol) of 3-benzyl-5-methylpyrimidine-2,4,6(1H,3H)-trione was added little by little. This mixture was stirred at 50° C. for 30 minutes and then at 100° C. for 90 minutes. After cooling, the reaction mixture was poured into ice water and stirred for 1 hour. The resulting precipitate was collected by filtration, washed with water and n-hexane and dried to yield 27.50 g (quant, light white crystal) of the desired product.

reactant | phosphorus oxychloride | 844 mmol, 78.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-benzyl-5-methylpyrimidine-2,4,6(1H,3H)-trione | 100 mmol, 23.22 g | C(C1=CC=CC=C1)N1C(NC(C(C1=O)C)=O)=O | C12H12N2O3
solvent | ethanol | 16.8 ml | C(C)O | C2H6O
product | 3-benzyl-6-chloro-5-methylpyrimidine-2,4(1H,3H)-dione | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)C)Cl)=O | C12H11ClN2O2
